Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man who presents the ED with
complaints of headache and foot pain.  Neurology is consulted 
due
to findings of a intraparenchymal hemorrhage.  History is
obtained primarily from his son ___.

He is otherwise been his usual state of health without any 
recent
illnesses.  On ___, he apparently fell at home.  He 
was
in bed when around 8 ___ he tried to get out of bed.  He states
that he was unable to tell where the edge of the bed was and he
fell out of bed, striking his head on the floor and also 
injuring
his toes.  There was no loss of consciousness.  He called out to
his wife, and with her assistance was able to get back into bed. 

He slept on and off throughout the night.  Over the next 2 days,
he spent most of his time on the couch watching TV, which is
typical for him.  He had a persistent headache.  He describes
this as a holocephalic pounding.  He also complained of some 
pain
in his feet.

His son also notes that occasionally he seemed more confused 
than
usual.  He would frequently repeat questions that had just been
asked.  He made some occasional paraphasic errors, but was able
to recognize that he use the wrong word.

Throughout this time, there is no weakness, sensory change,
repeat falls, vision changes, slurred speech or difficulty
speaking.

Due to the ongoing headache and foot pain, his family brought 
him
to the emergency department.  After receiving Tylenol and IV
fluids, his headache is better.  He denies any prior history of
neurologic event, including stroke, TIA.

His son reports that his father is generally able to function at
home independently.  He lives with his wife, and together they
manage most ADLs and IADLs.  It is not unusual for him to be
somewhat confused the about things like current events.  He does
not drive due to long-standing blindness.
 
Past Medical History:
Chronic lymphocytic leukemia- previously on chemotherapy but not
currently
Hypertension
Hyperlipidemia
Benign prostatic hypertrophy
Reflux
Glaucoma
Keratitis
Lumbar spinal stenosis
Anxiety
Documented history of atrial fibrillation, patient unaware of
this and not on anticoagulation
 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
ADMISSION: 
Vitals: T: 98.2 BP: 145/77 HR: 77 RR: 13 SaO2: 95% room air
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: There is ecchymosis and swelling of the distal foot,
bilaterally.
 
Neurologic:
-Mental Status: Alert, oriented to ___, ___.  Does not
know month or date.  Somewhat tangential speech.  Answers many
questions with "I will think about that and get back to you".
Attentive, able to name days of week forward without difficulty,
but when asked to do them backwards lists them forward again.
Language (primarily in ___, but with some ___ is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Able to name both high and low
frequency objects. No dysarthria. Able to follow both midline 
and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI: Opacified and cloudy cornea bilaterally.  
Pupils
chronically nonreactive.. EOMI without nystagmus. Normal
saccades.  Visual acuity to light/dark only.  Unable to 
visualize
fundi.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Paratonia in all limbs. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   5    5    5   5    5    
R    5    5    5    5    5    5   5    5    5   5    5    

-Sensory: Decreased pinprick/temperature sensation in a length
dependent, circumferential pattern in the lower legs 
bilaterally.
No extinction to DSS. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   1     1      1      0     0
R   1     1      1      0     0 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred given patient's complaint of foot pain.

DISCHARGE:
Tmax: 37.2 C (98.9 F)
T current: 36.5 C (97.7 F)
HR: 73 (63 - 95) bpm
BP: 141/78(95) {120/73(92) - 151/96(108)} mmHg
RR: 18 (16 - 19) insp/min
SPO2: 94% 
Heart rhythm: SR (Sinus Rhythm)

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: NR, RR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: There is ecchymosis and swelling of the distal foot,
bilaterally.
 
Neurologic:
Exam in ___, first language ___, although able to answer
questions in ___. 

-Mental Status: Alert, oriented. Language (primarily in ___,
but with some ___ is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
No dysarthria. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI: Opacified and cloudy cornea bilaterally. Pupils
chronically nonreactive. EOMI without nystagmus. Normal 
saccades.
Visual acuity to light/dark only. 
V: Facial sensation intact to light touch.
VII: slight R NLFF, facial musculature symmetric.
VIII: Hearing intact to conversation.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline.

-Motor: Paratonia in all limbs. No pronator drift. No
adventitious movements, such as tremor or asterixis noted. Moves
all extremities against gravity w/o apparent deficit.

-Sensory: Sensation intact to light touch throughout.

-Coordination/gait: No intention tremor. No dysmetria on FNF.

 
Pertinent Results:
___ 03:30PM BLOOD WBC-73.1* RBC-2.32* Hgb-8.2* Hct-26.1* 
MCV-113* MCH-35.3* MCHC-31.4* RDW-15.3 RDWSD-62.0* Plt Ct-65*
___ 03:30PM BLOOD Neuts-6* Bands-0 Lymphs-84* Monos-10 
Eos-0* Baso-0 ___ Myelos-0 AbsNeut-4.39 
AbsLymp-61.40* AbsMono-7.31* AbsEos-0.00* AbsBaso-0.00*
___ 08:55PM BLOOD ___ PTT-25.0 ___
___ 03:30PM BLOOD Glucose-121* UreaN-28* Creat-1.1 Na-141 
K-4.7 Cl-102 HCO3-27 AnGap-12
___ 03:30PM BLOOD ALT-9 AST-29 AlkPhos-67 TotBili-0.7
___ 03:30PM BLOOD ASA-NEG Acetmnp-6* Tricycl-NEG
___ 09:15PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 09:15PM URINE Blood-MOD* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-LG*
___ 09:15PM URINE RBC-93* WBC-85* Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 09:15PM URINE CastHy-1*

___ 9:15 pm URINE  **FINAL REPORT ___
   REFLEX URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.

___ CT head w/o contrast
IMPRESSION: 
Intraparenchymal hemorrhage within the left inferior temporal 
lobe measuring
1.7 x 1.2 cm with mild surrounding edema.

___ CT C-spine w/o contrast
IMPRESSION: 
1. No acute fracture or change in alignment.
2. Cervical lymphadenopathy has progressed in size and number, 
since CT
C-spine dated ___ concerning for lymphoproliferative 
disease.  Please correlate with any prior workup.
3. Multilevel degenerative changes as described above.

___ Bilateral Foot 2V and ankle 3V Xrays
IMPRESSION: 
1.  No acute fracture.
2.  Demineralized bones.
3.  Tiny bilateral plantar calcaneal spur.
4.  Mild first MTP joint arthritis bilaterally.

___ CTA head/neck
IMPRESSION: 
1.  Limited study as described.
2. Unchanged left anterior temporal lobe acute hemorrhage.
3. Redemonstration of layering hemorrhagic products at 
bioccipital loss of
lateral ventricles.
4. Grossly stable ventricular size compared to ___. Nonocclusive atherosclerotic narrowing of circle ___ as 
described.
6. Otherwise, grossly patent circle of ___ without evidence 
of
stenosis,occlusion,or aneurysm.
7. Nonocclusive cervical arterial atherosclerotic disease as 
described.
8. Otherwise, grossly patent bilateral cervical carotid and 
vertebral arteries without evidence of stenosis, occlusion, or 
dissection.
9. Numerous, diffusely enlarged cervical, supraclavicular, 
axillary, and
mediastinal lymph nodes bilaterally may be related to patient's 
history of
CLL.
10. Bilateral pleural effusions.
11. Additional findings as described above.

___ CT head w/o contrast
IMPRESSION:
1. Study degraded by motion.
2. Grossly stable 1.7 cm left inferior temporal intraparenchymal 
hematoma and intraventricular hemorrhage.
3. Within limits of study, no evidence of new hemorrhage.
4. No midline shift.
5. Additional stable findings as described.

___ MRI head w/o contrast
IMPRESSION:
1.  Study is degraded by motion.
2. Grossly stable left anterior temporal intraventricular 
choroid plexus acute hemorrhage with layering bioccipital horns 
hemorrhagic products.
3. Grossly stable size and configuration of the ventricular 
system since ___.
4. No definite evidence of acute infarct.

___ TTE
IMPRESSION: Suboptimal image quality. No definite structural 
cardiac source of embolism identified.
 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of CLL who 
presented to the ED after a fall 2 days prior, with complaints 
of headache. Neurology was consulted due to findings of an 
intraparenchymal hemorrhage. His initial exam was notable for 
some disorientation, inattention, and tangential speech. His 
head CT demonstrated a small, round hemorrhage in the left 
temporal lobe w/ no evidence of vascular malformation on CTA 
head/neck. MRI demonstrated stable left anterior temporal 
intraventricular choroid plexus acute hemorrhage w/ adjacent 
intraparenchymal edema BUT NO evidence of acute infarct. 
Etiology of this hemorrhage remains unclear at this point. It is 
not a typical location for hypertensive hemorrhage nor 
characteristic for amyloid angiopathy. Coagulopathy from his CLL 
may be contributing or could be traumatic after recent fall. His 
aspirin was held, and he was admitted to the stroke service on 
neurology stepdown unit for close monitoring (initial SBP goal 
<150). His headache improved, and ___ evaluation recommended 
rehab.

#acute left anterior temporal intraventricular choroid plexus 
hemorrhage
-HOLD aspirin until 7ds post-hemorrhage (___)
-will need MRI head w/ and w/o contrast at 3 months post-stroke 
and ___ month post-discharge stroke neurology follow-up
-___ recs for rehab

AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (X) Yes - () No
2. DVT Prophylaxis administered? () Yes - (X) No
3. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? (X) Yes - () No

#afib
-does not appear to be on anticoagulation per medication 
history, HOLD consideration of anticoagulation until outpatient 
stroke neurology follow-up
-continue home diltiazem

#depression/anxiety
- Continue home sertraline

#foot pain
-No evidence of fracture on foot/ankle plain films, conservative 
treatment with ice & pain control
-continue acetaminophen and tramadol PRN for pain

#CLL (stable)
-NTD

TRANSITIONAL ISSUES:
-Restart aspirin on ___
-Will be called for stroke neurology appointment and be 
scheduled for repeat imaging at that time
-Will need to hold any other antiplatelet or anticoagulation 
agents until stroke neurology follow-up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. Sertraline 100 mg PO DAILY 
3. Diltiazem Extended-Release 300 mg PO DAILY 
4. TraMADol 50 mg PO Q8H:PRN Pain - Moderate 
5. Esomeprazole 40 mg Other DAILY 
6. Erythromycin 0.5% Ophth Oint 0.5 in LEFT EYE TID 
7. PrednisoLONE Acetate 1% Ophth. Susp. Dose is Unknown  LEFT 
EYE Frequency is Unknown 
8. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE DAILY  
2.  Diltiazem Extended-Release 300 mg PO DAILY  
3.  Erythromycin 0.5% Ophth Oint 0.5 in LEFT EYE TID  
4.  Esomeprazole 40 mg Other DAILY  
5.  Sertraline 100 mg PO DAILY  
6.  Tamsulosin 0.4 mg PO QHS  
7.  TraMADol 50 mg PO Q8H:PRN Pain - Moderate  
8. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
acute left anterior temporal intraventricular choroid plexus 
hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of headache resulting from 
an ACUTE HEMORRHAGIC STROKE, a condition where blood supply 
providing oxygen and nutrients to the brain is interrupted due 
to bleeding. The brain is the part of your body that controls 
and directs all the other parts of your body, so damage to the 
brain from being deprived of its blood supply can result in a 
variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
FALL RISK

We are changing your medications as follows:
HOLD aspirin until ___ (7 days after stroke)

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___